US06903101B1
Step 2: Preparation of 4-[(2-phenyl-pyridinyl)methyl]-1(2H)-phthalazinone
A mixture of 2-(2-phenyl-pyridin-4-ylidene)-indan-1,3-dione (3.1 g, 10.4 mmol) and hydrazine hydrate (9.7 mL) was stirred at 130° C. under argon for 5 h. The reaction mixture was cooled and filtered. The resultant tacky solid was dissolved in ethyl acetate (250 mL) and then washed with water (2×50 mL) and brine (1×50 mL). The organic layer was dried over MgSO4, filtered, and evaporated in vacuo. Trituration from ether afforded the title compound as a beige solid (2.82 g, 9.0 mmol, 86% yield). 1H-NMR (DMSO-d6) 12.59 (broad s, 1H), 8.52 (d, J=4.6, 1H), 8.24 (dd, J=7.7, 1.0,1H), 7.95 to 8.03 (m, 4H), 7.78 to 7.91 (m, 2H), 7.40 to 7.49 (m, 3H), 7.21 (d, J=6.5, 1H), 4.39 (s, 2H); MS ES 314 (M+H)+, calc.313; TLC (1:2:8 v/v methanol-acetone-dichloromethane) Rf=0.40.

reactant | 2-(2-phenyl-pyridin-4-ylidene)-indan-1,3-dione | 10.4 mmol, 3.1 g | C1(=CC=CC=C1)C1=NC=CC(C1)=C1C(C2=CC=CC=C2C1=O)=O | C20H13NO2
reactant | hydrazine hydrate | 9.7 mL | O.NN
reactant | ether | CCOCC | C4H10O
product | 4-[(2-phenyl-pyridinyl)methyl]-1(2H)-phthalazinone | 9.0 mmol, 2.82 g, 86% yield | C1(=CC=CC=C1)C1=NC=CC=C1CC1=NNC(C2=CC=CC=C12)=O | C20H15N3O
